US04075343
Ethyl 5-Methoxyimidazo[1,2-a]quinoline-2-carboxylate
To 75 ml. of acetone was added 3.5 g. (0.20 mole) of 2-amino-4-methoxyquinoline, 4.3 g. (0.22 mole) of ethyl bromopyruvate and 3.0 g. (0.20 mole) potassium carbonate. The resulting mixture was heated at reflux for 5.5 hours and the resulting dark slurry allowed to stand at room temperature overnight. The solvent was removed by evaporation in vacuo and 200 ml. of water added to the residue to afford a gummy precipitate. This was extracted twice with 200 ml. portions of ethyl acetate, the extracts dried over anhydrous sodium sulfate, decolorized with active carbon (Darco), filtered and the solvent removed in vacuo to afford 3.5 g. of crude product. Filtration of the aqueous phase from the extraction step afforded another 1.0 g. of crude material. The combined crops were recrystallized from 100 ml. of 1:1 (by volume) isopropanol-water to afford 900 mg. of the title compound, M.P. 175°-176.5° C.

reactant | 2-amino-4-methoxyquinoline | 0.20 mole | NC1=NC2=CC=CC=C2C(=C1)OC | C10H10N2O
reactant | ethyl bromopyruvate | 0.22 mole | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | potassium carbonate | 0.20 mole | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl 5-Methoxyimidazo[1,2-a]quinoline-2-carboxylate | COC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)OCC | C15H14N2O3
